US07906537B2
(2-Cyclopentyloxy-4-nitrophenyl)-carbamic acid ethyl ester
Cyclopentanol (7.24 mL, 376 mM in dry tetrahydrofuran) was added to triphenylphosphine (1.44 g, polystyrene bound, 1.89 mMol/g) under argon, followed by the addition of a solution of (2-Hydroxy-4-nitrophenyl)-carbamic acid ethyl ester (25.6 mL, 62 mM in dry tetrahydrofuran) and a solution of diethylazodicarboxylate (7.24 mL, 376 mM in dry tetrahydrofuran). The reaction mixture was shaken at room temperature over night. The resin was filtered and washed with tetrahydrofuran (THF) (35 mL) and methanol (35 mL). The combined organic phase was evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, heptane/ethyl acetate, gradient) to yield the title compound as slightly yellow solid (294 mg, 64%).

reactant | Cyclopentanol | 376 mM, 7.24 mL | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-Hydroxy-4-nitrophenyl)-carbamic acid ethyl ester | 62 mM, 25.6 mL | C(C)OC(NC1=C(C=C(C=C1)[N+](=O)[O-])O)=O | C9H10N2O5
reactant | diethylazodicarboxylate | 376 mM, 7.24 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | (2-Cyclopentyloxy-4-nitrophenyl)-carbamic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1)[N+](=O)[O-])OC1CCCC1)=O | C14H18N2O5
